2200-01-04 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2200-1-4**] 12:18 AM
   Central Line placed.
   Discussed with Dr. [**Last Name (STitle) 3770**] with CT surgery.  Likely safe for 6-12 hours
   off anticoagulation after which risk of bleeding increases
   significantly
   Continued to have inappropriate Hct response to blood transfusions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-4**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 59 (57 - 77) bpm
   BP: 134/60(79) {102/46(61) - 144/72(89)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                    650 mL
                                                                  1,825 mL
   PO:
                                                                     50 mL
           TF:
   IVF:
                                                                    165 mL
                                                                    668 mL
   Blood products:
                                                                    435 mL
                                                                  1,156 mL
   Total out:
                                                                    700 mL
                                                                    500 mL
   Urine:
                                                                    700 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                  1,325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GENERAL:  NAD, comfortable.  A&O
   HEENT:  O/P clear, MMM
   CARDIAC:  [**Last Name (un) **] [**Last Name (un) **], mecanical S1
   LUNG:  CTAB
   ABDOMEN:  S NT ND
   EXT:  WWP, tr LE edema
   Labs / Radiology
   192 K/uL
   9.1 g/dL
   146 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   27.5 %
   6.2 K/uL
        [image002.jpg]
                            [**2200-1-3**]  10:14 PM
                            [**2200-1-4**]  01:37 AM
                            [**2200-1-4**]  04:32 AM
   WBC
   6.2
   Hct
   27.3
   24.5
   25.1
   27.5
   Plt
   192
   Cr
   0.5
   Glucose
   146
   Other labs: PT / PTT / INR:20.1/35.3/1.9, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HEART DISEASE, OTHER
   59 year old woman with mechanical MV, TV, AFib on coumadin and aspirin
   presenting with supertheraputic INR, melena, and weakness.
   # Melena: Melena suggest proximal to right colon, while negative NG
   lavage suggests distal to stomach.  Hct continues to increase
   inappropriately although there are no other signs of active bleeding.
   She got 10 IV + 2 PO Vit K and 2 U FFP to reverse anticoagulation.
   - transfusion to Hct 30
   - Urgent EGD this AM, may need tRBC scan if negative
   - Plan for heparin gtt starting between 7AM and 1PM.
   - Continue IV PPI gtt per GI recs
   - Discuss need for prophylactic Abx with GI, CT [**Doctor First Name 91**] would recommend
   # Demand ischemia: Given ST depressions and shortness of breath,
   patient may have demand ischemia.
   - recheck EKG
   - trend cardiac enzymes
   - transfuse to Hct 30
   # Anticoagulation: Patient has significant stroke risk given mechanical
   mitral valve and atrial fibrillation.  Goal INR 2.5-3.5.  Likely
   coumadin level elevated from amiodarone and recent antibiotics.
   - reversal and heparin bridge as above
   - hold coumadin for now, will need to resume once bleeding stable
   - hold aspirin for now, continue statin
   # Hypertension: Hold home lisinopril and metoprolol.  Currently well
   controlled.
   - gentle BB for RVR
   # Diabetes: Hold home reg, HISS
   ICU Care
   Nutrition: NPO + IVF
   Glycemic Control: ISS
   Lines:
   20 Gauge - [**2200-1-3**] 08:39 PM
   Multi Lumen - [**2200-1-4**] 12:18 AM
   Prophylaxis:
   DVT: at tolerated
   Stress ulcer: PPI gtt
   Communication:  Daughter [**First Name8 (NamePattern2) 10574**] [**Last Name (NamePattern1) 5888**] [**Telephone/Fax (1) 10575**];  Patient via
   translator  [**Numeric Identifier 10576**]
   Code status: Full code
   Disposition: ICU

2200-01-04 08:59:00 Physician Attending Progress Note
Chief Complaint: GIB with supratherapeutic INR
   HPI:
   59 F with DM, HTN, RHD s/p mechanical MVR, TVR, ASD repair, c/b post-op
   atrial fib on coumadin and asa, recently started on amio and augmentin
   presents with supratherapeutic INR and melena.  Neg NGL.
   24 Hour Events:
 MULTI LUMEN - START [**2200-1-4**] 12:18 AM
   Transfused for HCT goal 30 noting STTWC on ecg.
   Baseline 27-30:  hct 34 [**2199-8-17**]-->admit HCT  27--> 24 P 1 unit-->25
   1unit-->27 3^rd unit
   Received 4^th unit prbc with post transfusion hct pending
   INR 5.1, 2 vit K, 2 ff, am INR--> 1.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-4**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 57 (54 - 77) bpm
   BP: 130/68(85) {102/46(61) - 144/72(89)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.3 kg (admission): 58.7 kg
           Total In:
                                                                    650 mL
                                                                  2,061 mL
   PO:
                                                                     50 mL
           TF:
   IVF:
                                                                    165 mL
                                                                    682 mL
   Blood products:
                                                                    435 mL
                                                                  1,379 mL
   Total out:
                                                                    700 mL
                                                                    500 mL
   Urine:
                                                                    700 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                  1,561 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), mechanical heart sounds,
   faint sys m
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin: warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   9.1 g/dL
   192 K/uL
   146 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   27.5 %
   6.2 K/uL
        [image002.jpg]
                            [**2200-1-3**]  10:14 PM
                            [**2200-1-4**]  01:37 AM
                            [**2200-1-4**]  04:32 AM
   WBC
   6.2
   Hct
   24.5
   25.1
   27.5
   Plt
   192
   Cr
   0.5
   TropT
   <0.01
   Glucose
   146
   Other labs: PT / PTT / INR:20.1/35.3/1.9, CK / CKMB /
   Troponin-T:83//<0.01, ALT / AST:21/28, Alk Phos / T Bili:88/0.7,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: ECGs reviewed, resolution of ST dep and TWI seen on admit ecg
   CXR without focal changes, no effusions
   Assessment and Plan
   59 F with DM, HTN, RHD s/p mechanical MVR, TVR, ASD repair, c/b post-op
   atrial fib on coumadin and asa, recently started on amio and augmentin
   presents with melena/ GIB in setting of supratherapeutic INR:
   # GIB
remains stable from HD standpoint with adequate urine outpt
   IV PPI, transfuse to goal hct 30, follow serial h/h, GI to scope this
   am, if neg would pursue tagged rbc scan and probably colonoscopy, will
   need close monitoring for rebleed given ongoing need for
   anticoagulation
   # Mechanical heart valves
stroke risk given MVR limits length of time
   she can have anticoag reversed.  Post-egc will resume hep gtt and
   monitor closely.
   # Demand ischemia--ecg changes resovled, CEs flat
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2200-1-3**] 08:39 PM
   Multi Lumen - [**2200-1-4**] 12:18 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt--after EGD)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  40
   Patient is critically ill
   Addendum
   2 fungating masses in stomach seen on EGD.  While no active bleeding,
   appear friable and are likely source, bx not performed in light of
   needing ongoing anticoagulation and high bleeding risk.
   Have consulted surgery, as pt may require surgical procedure for
   tissue/staging or surgical intervention if massive bleeding recurs.
   Will d/w also with ercp team for EUS.
   Once stabilized consider ct c/a/p to eval for mets/additional lesions
   Additional crit care time spent in discussion:  20 minutes

2200-01-05 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hct remained stable
   EGD performed which demonstrated mass in stomach, surgery consulted who
   recommended EUS and colonoscopy which will be done monday/teusday and
   then pt. will likely go to surgery.
   Pt. will need note for medical clearance.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-5**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 63 (57 - 81) bpm
   BP: 117/60(74) {105/38(55) - 145/71(88)} mmHg
   RR: 17 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.3 kg (admission): 58.7 kg
             Total In:
                                                                  2,497 mL
                                                                    202 mL
   PO:
             TF:
   IVF:
                                                                  1,118 mL
                                                                    202 mL
   Blood products:
                                                                  1,379 mL
   Total out:
                                                                  2,250 mL
                                                                    400 mL
   Urine:
                                                                  2,250 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    247 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   10.7 g/dL
   88 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.6 mEq/L
   9 mg/dL
   106 mEq/L
   141 mEq/L
   32.4 %
   8.5 K/uL
        [image002.jpg]
                            [**2200-1-3**]  10:14 PM
                            [**2200-1-4**]  01:37 AM
                            [**2200-1-4**]  04:32 AM
                            [**2200-1-4**]  09:21 AM
                            [**2200-1-4**]  03:07 PM
                            [**2200-1-4**]  09:43 PM
                            [**2200-1-5**]  04:40 AM
   WBC
   6.2
   8.5
   Hct
   24.5
   25.1
   27.5
   34.1
   33.9
   31.8
   32.4
   Plt
   192
   211
   Cr
   0.5
   0.6
   TropT
   <0.01
   Glucose
   146
   88
   Other labs: PT / PTT / INR:20.1/99.3/1.9, CK / CKMB /
   Troponin-T:83//<0.01, ALT / AST:21/28, Alk Phos / T Bili:88/0.7,
   Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   59 year old woman with mechanical MV, TV, AFib on coumadin and aspirin
   presenting with supertheraputic INR, melena, and weakness.
   # Melena: Melena suggest proximal to right colon, while negative NG
   lavage suggests distal to stomach.  Hct continues to increase
   inappropriately although there are no other signs of active bleeding.
   She got 10 IV + 2 PO Vit K and 2 U FFP to reverse anticoagulation.
   - transfusion to Hct 30
   - Urgent EGD this AM, may need tRBC scan if negative
   - Plan for heparin gtt starting between 7AM and 1PM.
   - Continue IV PPI gtt per GI recs
   - Discuss need for prophylactic Abx with GI, CT [**Doctor First Name 91**] would recommend
   # Demand ischemia: Given ST depressions and shortness of breath,
   patient may have demand ischemia.
   - recheck EKG
   - trend cardiac enzymes
   - transfuse to Hct 30
   # Anticoagulation: Patient has significant stroke risk given mechanical
   mitral valve and atrial fibrillation.  Goal INR 2.5-3.5.  Likely
   coumadin level elevated from amiodarone and recent antibiotics.
   - reversal and heparin bridge as above
   - hold coumadin for now, will need to resume once bleeding stable
   - hold aspirin for now, continue statin
   # Hypertension: Hold home lisinopril and metoprolol.  Currently well
   controlled.
   - gentle BB for RVR
   # Diabetes: Hold home reg, HISS
   ICU Care
   Nutrition: NPO + IVF
   Glycemic Control: ISS
   Lines:
   20 Gauge - [**2200-1-3**] 08:39 PM
   Multi Lumen - [**2200-1-4**] 12:18 AM
   Prophylaxis:
   DVT: at tolerated
   Stress ulcer: PPI gtt
   Communication:  Daughter [**First Name8 (NamePattern2) 10574**] [**Last Name (NamePattern1) 5888**] [**Telephone/Fax (1) 10575**];  Patient via
   translator  [**Numeric Identifier 10576**]
   Code status: Full code
   Disposition: ICU

2200-01-05 12:09:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EGD yesterday showed 2 large masses concerning for malignancy
   heparin started
   hct has remained stable, no further transfusions overnight (4 upon
   arrival)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-5**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 58 (58 - 78) bpm
   BP: 140/65(84) {105/38(55) - 140/71(86)} mmHg
   RR: 16 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.3 kg (admission): 58.7 kg
             Total In:
                                                                  2,497 mL
                                                                    318 mL
   PO:
             TF:
   IVF:
                                                                  1,118 mL
                                                                    318 mL
   Blood products:
                                                                  1,379 mL
   Total out:
                                                                  2,250 mL
                                                                    700 mL
   Urine:
                                                                  2,250 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    247 mL
                                                                   -382 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), irreg,
   faint sys m, mechanical HSs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   10.7 g/dL
   211 K/uL
   88 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.6 mEq/L
   9 mg/dL
   106 mEq/L
   141 mEq/L
   35.0 %
   8.5 K/uL
        [image002.jpg]
                            [**2200-1-3**]  10:14 PM
                            [**2200-1-4**]  01:37 AM
                            [**2200-1-4**]  04:32 AM
                            [**2200-1-4**]  09:21 AM
                            [**2200-1-4**]  03:07 PM
                            [**2200-1-4**]  09:43 PM
                            [**2200-1-5**]  04:40 AM
                            [**2200-1-5**]  08:35 AM
   WBC
   6.2
   8.5
   Hct
   24.5
   25.1
   27.5
   34.1
   33.9
   31.8
   32.4
   35.0
   Plt
   192
   211
   Cr
   0.5
   0.6
   TropT
   <0.01
   Glucose
   146
   88
   Other labs: PT / PTT / INR:20.1/60.5/1.9, CK / CKMB /
   Troponin-T:83//<0.01, ALT / AST:21/28, Alk Phos / T Bili:88/0.7,
   Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Microbiology: no micro pending
   Assessment and Plan
   59 F with DM, HTN, RHD s/p mechanical MVR, TVR, ASD repair, c/b post-op
   atrial fib on coumadin and asa, recently started on amio and augmentin
   presents with melena/ GIB in setting of supratherapeutic INR:
   # GIB
remains stable from HD standpoint with adequate urine outpt,
   gastric masses likely source of bleed in setting of elevated INR.
   Continue PPI, follow serial h/h [**Hospital1 **], ICU for close monitoring for
   rebleed given ongoing need for anticoagulation
   Plan for EUS in am and possible colonscopy , surgery following
   # Mechanical heart valves
high stroke risk given MVR limits length of
   time she can have anticoag reversed.  Continue heparin gtt at this
   time.  Would obtain cardiology consultation to assist with surgical
   management of anticoagulation and for risk stratification given
   nurmerous cardiac RFS and valvular ds.
   # Demand ischemia--ecg changes resovled, CEs flat
   Remainder as per resident note
   ICU Care
   Nutrition: advance to clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2200-1-3**] 08:39 PM
   Multi Lumen - [**2200-1-4**] 12:18 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, remains in ICU given high risk for bleeding while on
   heparin
   Total time spent: 40 minutes

2200-01-06 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HCT remained stable, plan for EUS today.
   Cards c/s for pre-op risk and AC management says no further cardiac w/u
   needed. Restart heparin asap post surgery.
   NPO p MN but did not turn off heparin gtt because unclear timing of
   EUS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2200-1-5**] 04:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-6**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 57 (55 - 71) bpm
   BP: 143/63(81) {115/53(70) - 146/81(90)} mmHg
   RR: 25 (13 - 33) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.3 kg (admission): 58.7 kg
             Total In:
                                                                  1,884 mL
                                                                    202 mL
   PO:
                                                                  1,240 mL
             TF:
   IVF:
                                                                    644 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    400 mL
   Urine:
                                                                  2,400 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -516 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GA: no acute distress
   HEENT: central line with sanguinous bandages, NT to palpation
   Cards: RRR S1/S2 heard no m/g/r
   Abdomen: soft, NT, +BS no g/rt
   Extremities: wwp, no edema
   Labs / Radiology
   192 K/uL
   10.8 g/dL
   101 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   7 mg/dL
   107 mEq/L
   141 mEq/L
   33.0 %
   5.9 K/uL
        [image002.jpg]
                            [**2200-1-3**]  10:14 PM
                            [**2200-1-4**]  01:37 AM
                            [**2200-1-4**]  04:32 AM
                            [**2200-1-4**]  09:21 AM
                            [**2200-1-4**]  03:07 PM
                            [**2200-1-4**]  09:43 PM
                            [**2200-1-5**]  04:40 AM
                            [**2200-1-5**]  08:35 AM
                            [**2200-1-6**]  05:41 AM
   WBC
   6.2
   8.5
   5.9
   Hct
   24.5
   25.1
   27.5
   34.1
   33.9
   31.8
   32.4
   35.0
   33.0
   Plt
   192
   211
   192
   Cr
   0.5
   0.6
   0.7
   TropT
   <0.01
   Glucose
   146
   88
   101
   Other labs: PT / PTT / INR:15.2/63.0/1.3, CK / CKMB /
   Troponin-T:83//<0.01, ALT / AST:21/28, Alk Phos / T Bili:88/0.7,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HEART DISEASE, OTHER
   59 yo F with melana, with gastric masses noted on EGD.
   # Melena: Gastric masses noted on EGD. Hct stable at 33. Last PRBC
   transfusion was 2 days ago. Currently resolved melena but high risk of
   rebleeding from her gastric lesion though initially probably started
   [**2-18**] supratherapeutic INR.
   - transfusion to Hct 30, Hct checks q8H
   - continue heparin gtt for MVR (goal PTT 60-80)
   - Continue IV PPI gtt per GI recs
   - EUS scheduled for today, will determine staging for surgery in AM
   # Demand ischemia: appears resolved w/ transfusion, did not bump
   enzymes. Cardiology consult states no further cardiac work-up is
   required at this time, but to restart heparin as soon as possible after
   all procedures.
   # Anticoagulation: Patient has significant stroke risk given mechanical
   mitral valve and atrial fibrillation.  Goal PTT 60-80
   - heparin bridge as above
   - hold coumadin for now, will need to resume once bleeding stable after
   surgery
   - hold aspirin for now, continue statin
   # Hypertension: Holding home lisinopril and metoprolol.  Currently well
   controlled.
   - gentle BB for RVR
   # Diabetes: Hold home reg, HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-1-3**] 08:39 PM
   Multi Lumen - [**2200-1-4**] 12:18 AM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: called out to the floor

2200-01-06 10:43:00 Physician Attending Progress Note
Chief Complaint: Melena
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59F history of MVR, admitted with melena and found to have gastric
   mass; now awaiting EUS for staging with likely surgery later this week.
   24 Hour Events:
   Stable HCT, stable BP/HR overnight.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2200-1-5**] 04:22 PM
   Other medications:
   Insulin sliding scale
   Amiodarone
   Pravastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-6**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 58 (55 - 71) bpm
   BP: 137/71(87) {115/53(70) - 146/81(90)} mmHg
   RR: 20 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.3 kg (admission): 58.7 kg
             Total In:
                                                                  1,884 mL
                                                                    275 mL
   PO:
                                                                  1,240 mL
             TF:
   IVF:
                                                                    644 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    400 mL
   Urine:
                                                                  2,400 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -516 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: awake, alert
   CV:  IR/IR, mechanical heart sounds
   Chest: clear lungs
   Abd: s/nt/nd
   Ext: no edema, warm/well-perfused
   Labs / Radiology
   10.8 g/dL
   192 K/uL
   101 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   7 mg/dL
   107 mEq/L
   141 mEq/L
   33.0 %
   5.9 K/uL
        [image002.jpg]
                            [**2200-1-3**]  10:14 PM
                            [**2200-1-4**]  01:37 AM
                            [**2200-1-4**]  04:32 AM
                            [**2200-1-4**]  09:21 AM
                            [**2200-1-4**]  03:07 PM
                            [**2200-1-4**]  09:43 PM
                            [**2200-1-5**]  04:40 AM
                            [**2200-1-5**]  08:35 AM
                            [**2200-1-6**]  05:41 AM
   WBC
   6.2
   8.5
   5.9
   Hct
   24.5
   25.1
   27.5
   34.1
   33.9
   31.8
   32.4
   35.0
   33.0
   Plt
   192
   211
   192
   Cr
   0.5
   0.6
   0.7
   TropT
   <0.01
   Glucose
   146
   88
   101
   Other labs: PT / PTT / INR:15.2/63.0/1.3, CK / CKMB /
   Troponin-T:83//<0.01, ALT / AST:21/28, Alk Phos / T Bili:88/0.7,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   59F with h/o mechanical mitral valve; admitted with melena and found to
   have gastric mass.  Now awaiting EUS for staging with plan for eventual
   surgery.
   1.  Upper GI bleed secondary to gastric mass:  HCT stable, on heparin
   drip for mechanical MVR.
   - change IV PPI to [**Hospital1 **]
   - follow HCT
   - Stable for floor
   - EUS today; will hold heparin
   - Possible OR pending EUS
   2.       Mechanical mitral valve: Also with atrial fibrillation
   - continue heparin until confirm time for EUS
   - amiodarone
   - followed by cardiology
   ICU Care
   Nutrition:
   Comments: NPO for procedure
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2200-1-3**] 08:39 PM
   Multi Lumen - [**2200-1-4**] 12:18 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not intubated
   Communication: ICU consent signed Comments: Patient updated during
   rounds
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes